US04217352
2-Methyl-5-hydroxymethylpyridine (0.1 mole) is stirred in pyridine (50 ml.) with acetic anhydride (0.15 mole) at room temperature overnight. The mixture is concentrated to dryness, and the residue is dissolved in 70 ml. of water and extracted with 3×25 ml. of chloroform. After drying over magnesium sulfate, the chloroform is concentrated to dryness to give 2-methyl-5-acetoxymethylpyridine.

reactant | 2-Methyl-5-hydroxymethylpyridine | 0.1 mole | CC1=NC=C(C=C1)CO | C7H9NO
reactant | acetic anhydride | 0.15 mole | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyl-5-acetoxymethylpyridine | CC1=NC=C(C=C1)COC(C)=O | C9H11NO2
